US08097759B2
N-(5-Chloro-2-hydroxyphenyl)-3,5-dichlorobenzamide (Compound No. 12)
2-Amino-4-chlorophenol (316 mg, 2.2 mmol) and triethylamine (243 mg, 2.4 mmol) were dissolved in dichloromethane (5 mL). A solution of 3,5-dichlorobenzoyl chloride (419 mg, 2 mmol) in dichloromethane (2 mL) was added dropwise under ice cooling and argon atmosphere, and the mixture was stirred at room temperature for 15 hours. After the reaction mixture was diluted with ethyl acetate, washed with water and brine one after another, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane-ethyl acetate=3:1) to give a light brown solid. The solid was suspended and washed with n-hexane-ethyl acetate under heating at reflux to give the title compound (205 mg, 32.4%) as a white crystal.

reactant | 2-Amino-4-chlorophenol | 2.2 mmol, 316 mg | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | triethylamine | 2.4 mmol, 243 mg | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 2 mmol, 419 mg | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-Chloro-2-hydroxyphenyl)-3,5-dichlorobenzamide | 205 mg, 32.4% | ClC=1C=CC(=C(C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)O | C13H8Cl3NO2
